US08648084B2
2-chloro-6-(4-fluorobenzyloxy)pyrazine
4-Fluorobenzylalcohol (200 μL, 1.85 mmol) and potassium tert-butoxide (122.1 mg, 1.00 mmol) in anhydrous DMSO (1 mL) were reacted with 2,6-dichloropyrazine (156.8 mg, 1.05 mmol) as described in Example 19B to afford the title compound. MS (DCI/NH3) m/z 239 (M+H)+.

reactant | 4-Fluorobenzylalcohol | 1.85 mmol, 200 μL | FC1=CC=C(CO)C=C1 | C7H7FO
reactant | potassium tert-butoxide | 1.00 mmol, 122.1 mg | CC(C)([O-])C.[K+]
reactant | 2,6-dichloropyrazine | 1.05 mmol, 156.8 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 2-chloro-6-(4-fluorobenzyloxy)pyrazine | ClC1=NC(=CN=C1)OCC1=CC=C(C=C1)F | C11H8ClFN2O
